### PR TITLE
[Merged by Bors] - chore: turn some `induction'` to `induction`

### PR DESCRIPTION
**Pull request by pitmonticone**
This PR turns some (soon to be deprecated?) `induction'` into `induction`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Eval.lean [hunk 1]
```diff
@@ -104,10 +104,9 @@ def eval₂AddMonoidHom : R[X] →+ S where
 
 @[simp]
 theorem eval₂_natCast (n : ℕ) : (n : R[X]).eval₂ f x = n := by
-  induction' n with n ih
-  -- Porting note: `Nat.zero_eq` is required.
-  · simp only [eval₂_zero, Nat.cast_zero, Nat.zero_eq]
-  · rw [n.cast_succ, eval₂_add, ih, eval₂_one, n.cast_succ]
+  induction n with -- Porting note: `Nat.zero_eq` is required.
```
Comment (j-loreaux) [inline Mathlib/Algebra/Polynomial/Eval.lean:107]: Is this porting note still relevant? Either way, I think we can delete it.

**Review by j-loreaux — COMMENTED** [review]
Thanks for doing this!

bors d+

File: Mathlib/Algebra/Polynomial/Eval.lean [hunk 2]
```diff
@@ -104,10 +104,9 @@ def eval₂AddMonoidHom : R[X] →+ S where
...
+  | zero => simp only [eval₂_zero, Nat.cast_zero, Nat.zero_eq]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Polynomial/Eval.lean:108]:
```suggestion
  | zero => simp only [eval₂_zero, Nat.cast_zero]
```
I think

Comment (pitmonticone) [reply Mathlib/Algebra/Polynomial/Eval.lean:108]: Thank you Eric. I'm going to test your suggested change as soon as I can.

Comment (pitmonticone) [reply Mathlib/Algebra/Polynomial/Eval.lean:108]: Tested. You are right. Thanks.

File: Mathlib/Algebra/Polynomial/Eval.lean (hunk 1 above)
Comment (pitmonticone) [reply Mathlib/Algebra/Polynomial/Eval.lean:107]: Ok, done. Thanks.

**Comment by pitmonticone** [comment]
bors merge
